data/oMe_Silver.jsonl
{"reaction_id": "NR-115_10-c1ccc(C(F)(F)F)cc1_1-C(F)(F)F_2-S(=O)(=O)c1ccccc1_3-c1ccccc1_4-CCCC_5-c1ccc(OC)cc1_6-Cc1ccccc1_7-c1ccccc1_8-C(C)(C)C_9-CC(C)CC","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(c1ccccc1)C(O/C(=C(/Cc1ccccc1)c1ccccc1)/O[Si](C(C)(C)C)(CC(C)CC)(c1ccc(C(F)(F)F)cc1))(c1ccc(OC)cc1)CCCC)(C(F)(F)F)S(=O)(=O)c1ccccc1"],"products_smiles": ["C(=C(c1ccccc1)C(C(C(=O)O[Si](C(C)(C)C)(CC(C)CC)(c1ccc(C(F)(F)F)cc1))(c1ccccc1)Cc1ccccc1)(c1ccc(OC)cc1)CCCC)(C(F)(F)F)S(=O)(=O)c1ccccc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(c1ccccc1)C(C(C(=O)O[Si](C(C)(C)C)(CC(C)CC)(c1ccc(C(F)(F)F)cc1))(c1ccccc1)Cc1ccccc1)(c1ccc(OC)cc1)CCCC)(C(F)(F)F)S(=O)(=O)c1ccccc1","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
{"reaction_id": "NR-061_1-CCCC(C)C_2-CCCC(C)C","level": "easy","name": "Dieckmann Condensation","reactants_smiles": ["O(CCCC(C)C)C(=O)CCCC(=O)O(CCCC(C)C)"],"products_smiles": ["O(CCCC(C)C)C(=O)C1CCCC1=O"],"conditions": "Base","mechnism_text_description": "The Dieckmann condensation is the intramolecular reaction of diesters using strong bases yielding cyclic β-keto esters. It is the intramolecular variant of the Claisen condensation.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(CCCC(C)C)C(=O)[CH-]CCCC(=O)O(CCCC(C)C)","step_weight": 0,"rationale": "Strong base abstracts the acidic α-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O(CCCC(C)C)C(=O)C1C([O-])(O(CCCC(C)C))CCC1","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic ester carbonyl intramolecularly, favored by proximity and formation of a stable five-membered ring."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O(CCCC(C)C)C(=O)C1CCCC1=O","step_weight": 0,"rationale": "Elimination of the alkoxide occurs because it is a good leaving group, restoring the carbonyl and yielding the conjugated β-keto ester."}],"description": "Under basic conditions, the α-proton of one ester is deprotonated to form an enolate, which intramolecularly attacks the carbonyl of the second ester, forming a cyclic intermediate. Elimination of the alkoxide yields the stable β-keto ester product."}
